US07241791B2
Step 2: 4-(7-fluoro-1-propyl-1H-indazol-3-yl)phenol
Prepared according to Method D step C from 1-propyl-7-fluoro-3-(4-methoxyphenyl)-methyl-1H-indazole (0.051 g, 0.197 mmol), boron tribromide (0.10 mL, 1.05 mmol) and 0.3 mL of cyclohexene to give the product (0.051 g) as an off-white solid.

reactant | 1-propyl-7-fluoro-3-(4-methoxyphenyl)-methyl-1H-indazole | 0.197 mmol, 0.051 g | C(CC)N1N=C(C2=C(C=CC(=C12)F)C)C1=CC=C(C=C1)OC | C18H19FN2O
reactant | boron tribromide | 1.05 mmol, 0.10 mL | B(Br)(Br)Br | BBr3
reactant | cyclohexene | 0.3 mL | C1=CCCCC1 | C6H10
product | 4-(7-fluoro-1-propyl-1H-indazol-3-yl)phenol | 0.051 g | FC=1C=CC=C2C(=NN(C12)CCC)C1=CC=C(C=C1)O | C16H15FN2O
